US07919506B2
Step F: Preparation of (S)-2-bromomethyl-1-(cyclohexyl-methoxy-methyl)-4-trifluoromethyl-benzene
To a solution of (S)-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-phenyl]-methanol (340 mg, 1.2 mmol) in methylene chloride (10 mL) at 0° C. was added carbon tetrabromide (485 mg, 1.46 mmol) and stirred for 10 minutes followed by addition of triphenylphosphine (383 mg, 1.46 mmol). Reaction was stirred at 0° C. for 1 hour and allowed to warm to room temperature and stirred for 16 hours. Reaction was concentrated in vacuo and purified on 25+S Biotage column eluting with 0-20% ethyl acetate in heptane (10 CV), 20% (2CV), to yield the title compound (270 mg, 66%) as a colorless oil. This oil solidified upon standing and was recrystalized from hexane to yield crystals (mp=43-45° C.), which were submitted to X-ray crystallography to establish absolute configuration. 1H NMR (400 MHz, CDCl3) δ ppm 1.1 (m, 4H) 1.3 (m, 2H) 1.6 (m, 3H) 1.7 (m, 1H) 2.0 (d, J=12.6, 1H) 3.2 (s, 3H) 4.2 (d, J=7.9, 1H) 4.5 (d, J=10.3 Hz, 1H) 4.6 (d, J=10.3 Hz, 1H) 7.4 (d, J=8.3 Hz, 1H) 7.5 (d, J=8.3 Hz, 1H) 7.6 (s, 1H). [α]D20=−50 deg (c=11.5 mg/mL, acetone)

reactant | (S)-[2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-phenyl]-methanol | 1.2 mmol, 340 mg | C1(CCCCC1)[C@@H](C1=C(C=C(C=C1)C(F)(F)F)CO)OC | C16H21F3O2
reactant | carbon tetrabromide | 1.46 mmol, 485 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.46 mmol, 383 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-bromomethyl-1-(cyclohexyl-methoxy-methyl)-4-trifluoromethyl-benzene | 270 mg, 66% | BrCC1=C(C=CC(=C1)C(F)(F)F)[C@@H](OC)C1CCCCC1 | C16H20BrF3O
